US07557137B2
A solution of BOC-Asp-OBzl (1.49 g, 4.61 mmol) and N-Hydroxy succinimide (584 mg, 5.07 mmol) in EtOAc (20 ml) was cooled to 0° C. 1,3-Dicyclohexylcarbodiimide (1.05 g, 5.07 mmol) was added portionwise. White precipitate began forming. The resulting mixture was stirred at 0° C. for 10 min. and then allowed to warm to rt. After stirring for 6 h. at rt the mixture was filtered and concentrated in vacuo to give 2-tert-butoxycarbonylamino-succinic acid 1-benzyl ester 4-(2,5-dioxo-pyrrolidin-1-yl) ester as a clear, colorless oil which was used without further purification.

reactant | BOC-Asp-OBzl | 4.61 mmol, 1.49 g | N([C@@H](CC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C16H21NO6
reactant | N-Hydroxy succinimide | 5.07 mmol, 584 mg | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1,3-Dicyclohexylcarbodiimide | 5.07 mmol, 1.05 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
product | 2-tert-butoxycarbonylamino-succinic acid 1-benzyl ester 4-(2,5-dioxo-pyrrolidin-1-yl) ester | O=C1N(C(CC1)=O)OC(CC(C(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C20H24N2O8
